US06136823
Synthesis of 1-(5-Amino-2,4-difluorophenyl)-8-chloro-7-cyclopropylamino-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
Cyclopropylamine (50 mg) and 1-(5-amino-2,4-difluorophenyl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (150 mg) were, added to N,N-dimethylformamide (2 ml), and the mixtures was stirred at 60° C. for 2 hours. After the reaction mixture was cooled back to room temperature, the solvent was, distilled off under reduced pressure. Ethanol was added to the residue, and solids deposited were collected by filtration to obtain the title compound (80 mg) as a pale yellow powder.

reactant | Cyclopropylamine | 50 mg | C1(CC1)N | C3H7N
reactant | 1-(5-amino-2,4-difluorophenyl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 150 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)O)F)F | C16H7ClF4N2O3
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 1-(5-Amino-2,4-difluorophenyl)-8-chloro-7-cyclopropylamino-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 80 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)Cl)NC1CC1)F)=O)C(=O)O)F)F | C19H13ClF3N3O3
